US04596816
A mixture of 2,5-dimethyl-4-phenyloxazole (6.0 g), N-bromosuccinimide (6.6 g), azobisisobutyronitrile (0.3 g) and carbon tetrachloride (120 ml) was refluxed with stirring for 5 minutes. The reaction mixture was washed with water, saturated aqueous sodium hydrogen carbonate and water in that order, and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the oily residue was left standing to give 5-bromomethyl-2-methyl-4-phenyloxazole as crystals, yield 9.2 g (98.9%). Recrystallization from ethanol gave colorless needles, m.p. 80°-81° C.

reactant | 2,5-dimethyl-4-phenyloxazole | 6.0 g | CC=1OC(=C(N1)C1=CC=CC=C1)C | C11H11NO
reactant | N-bromosuccinimide | 6.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2-methyl-4-phenyloxazole | BrCC1=C(N=C(O1)C)C1=CC=CC=C1 | C11H10BrNO
